US04140790
A solution of 3.8 g of 3-[4-(2-methoxyphenyl)-piperazin-1-yl]-1-hydroxy-propane in 40 ml of acetone is added dropwise at 20° C to a stirred solution of 4.9 g of xanthene-9-carbonyl chloride in 30 ml of acetone. The reaction mixture is refluxed for 30 minutes, allowed to cool to 60° C, and then ethanolic hydrochloric acid is added to the mixture until no more crystalline substance separates. The reaction mixture is cooled to 0° C, the separated crude substance is filtered off, and the crude substance is recrystallized from 20 ml of a 1:2 mixture of water and ethanol. 5.3 g (73%) of 3-[4-(2-methoxyphenyl)-piperazin-1-yl]-1-(xanthene-9-carbonyloxy)-propane hydrochloride are obtained; m.p.: 193°-195° C.

reactant | 3-[4-(2-methoxyphenyl)-piperazin-1-yl]-1-hydroxy-propane | 3.8 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCO | C14H22N2O2
reactant | xanthene-9-carbonyl chloride | 4.9 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3-[4-(2-methoxyphenyl)-piperazin-1-yl]-1-(xanthene-9-carbonyloxy)-propane hydrochloride | 5.3 g, 73% | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCOC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | InChI=1S/C28H30N2O4.ClH/c1-32-26-14-7-4-11-23(26)30-18-16-29(17-19-30)15-8-20-33-28(31)27-21-9-2-5-12-24(21)34-25-13-6-3-10-22(25)27;/h2-7,9-14,27H,8,15-20H2,1H3;1H
